### PR TITLE
feat(Wikipedia): Coxeter Group Isomorphism Problem

### LINKED ISSUE #2147: Isomorphism Problem of Coxeter Groups
### What is the conjecture

 A **Coxeter group** is a group generated by reflections, defined by a Coxeter matrix $(m_{ij})_{i,j \in S}$ or Coxeter diagram. The **isomorphism problem for Coxeter groups** asks: Given two Coxeter groups $W$ and $W'$ specified by their Coxeter matrices (or diagrams), determine whether they are isomorphic as abstract groups—that is, whether there exists a group isomorphism $\phi: W \to W'$.

This is a classical open problem in combinatorial group theory. While the problem has been resolved for certain special classes of Coxeter groups (e.g., finitely generated chordal Coxeter groups, triangle groups), the general problem remains open.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - - https://en.wikipedia.org/wiki/Isomorphism_problem_of_Coxeter_groups\n- https://arxiv.org/abs/math/0506572\n- https://www.worldscientific.com/worldscibooks/10.1142/p385

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-02-03)

Building blocks (from search results):
- Group isomorphism (exists in Mathlib via `Group` and `Equiv`)
-  Matrix representations (available in Mathlib)
- General group theory infrastructure

Missing pieces:
- Formal definition of Coxeter groups and their presentations via Coxeter matrices/diagrams in Lean
- Framework for defining groups from Coxeter data

Rating justification: Coxeter group theory is not present in Mathlib, requiring significant foundational work to define Coxeter groups themselves. Once that infrastructure exists, stating the isomorphism problem is straightforward using existing group-theoretic machinery.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-20

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by franzhusch**
Fixes #2147

I have used Claude Opus 4.5 to help me formalize this conjecture.

### CODE REVIEW

**Comment by franzhusch** [comment]
Fixes #2147

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
...
+This is Problem 1 from Mühlherr's paper:
+> *"Given two Coxeter matrices $M$ and $M'$, decide whether the groups $W(M)$ and $W(M')$
+> are isomorphic."*
+
+This formulation is *constructive*: `Decidable` requires an actual decision procedure. -/
+@[category research open, AMS 20]
+noncomputable def coxeterGroup_isomorphism_decidable (n m : ℕ) 
+    (M₁ : CoxeterMatrix (Fin n))
+    (M₂ : CoxeterMatrix (Fin m)) :
+    Decidable (Nonempty (M₁.Group ≃* M₂.Group)) :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]:
```suggestion
    Decidable (Nonempty (M₁.Group ≃* M₂.Group)) := by
```

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+This is Problem 2 from Mühlherr's paper:
+> *"Given two Coxeter matrices $M$ and $M'$, find all isomorphisms from $W(M)$ onto $W(M')$."*
+
+This formulation is *non-constructive*: `Countable` only asserts existence of an enumeration.
+For a constructive version, see `coxeterGroup_isomorphisms_encodable`. -/
+@[category research open, AMS 20]
+theorem coxeterGroup_find_all_isomorphisms (n m : ℕ)
+    (M₁ : CoxeterMatrix (Fin n))
+    (M₂ : CoxeterMatrix (Fin m)) :
+    Countable (M₁.Group ≃* M₂.Group) :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]:
```suggestion
    Countable (M₁.Group ≃* M₂.Group) := by
```

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+
+This is Problem 2 from Mühlherr's paper:
+> *"Given two Coxeter matrices $M$ and $M'$, find all isomorphisms from $W(M)$ onto $W(M')$."*
+
+This formulation is *constructive*: `Encodable` provides actual `encode`/`decode` functions. -/
+@[category research open, AMS 20]
+noncomputable def coxeterGroup_isomorphisms_encodable (n m : ℕ)
+    (M₁ : CoxeterMatrix (Fin n))
+    (M₂ : CoxeterMatrix (Fin m)) :
+    Encodable (M₁.Group ≃* M₂.Group) :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]:
```suggestion
    Encodable (M₁.Group ≃* M₂.Group) := by
```

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 4]
```diff
@@ -0,0 +1,95 @@
...
+Given two Coxeter matrices $M_1$ and $M_2$ over finite index types, it is decidable whether
+the Coxeter groups $W(M_1)$ and $W(M_2)$ are isomorphic as abstract groups.
+
+This is Problem 1 from Mühlherr's paper:
+> *"Given two Coxeter matrices $M$ and $M'$, decide whether the groups $W(M)$ and $W(M')$
+> are isomorphic."*
+
+This formulation is *constructive*: `Decidable` requires an actual decision procedure. -/
+@[category research open, AMS 20]
+noncomputable def coxeterGroup_isomorphism_decidable (n m : ℕ)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]:
```suggestion
def coxeterGroup_isomorphism_decidable (n m : ℕ) 
```
Is the `noncomputable` really needed here? 
Could this be an instance instead? 
If we wanted to have a theorem could we do 
`Nonempty <| Decidable (Nonempty (M₁.Group ≃* M₂.Group)) `?
I'm just not so sure how to handle this correctly, I don't think we many `def`s with a category label. 
Looping in @eric-wieser and @Paul-Lez

**Review by mo271 — APPROVED** [review]
Thanks!
Looks good in general, but I'm not quite sure if the informal statements are best captured like you suggested with the definitions.

**Review by mo271 — CHANGES_REQUESTED** [review]
(accidently marked this as approved, now clicking "Request changes" to mark that this still needs work/discussion)

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean (hunk 4 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: I have removed the noncomputable.

**Comment by franzhusch** [comment]
The build documentation step of CI fails, I have looked at it and I think my PR is not a fault here, but feel free to correct me.

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: I think the theorem isn't the way to go since that's trivially provable:
```lean
theorem coxeterGroup_isomorphism_decidable (n m : ℕ) 
    (M₁ : CoxeterMatrix (Fin n))
    (M₂ : CoxeterMatrix (Fin m)) :
    Nonempty (Decidable (Nonempty (M₁.Group ≃* M₂.Group))) := by
  classical
  have := Classical.decidableInhabited (Nonempty (M₁.Group ≃* M₂.Group))
  infer_instance
```
I'll have a think about what the best approach here is.

**Comment by Paul-Lez** [comment]
(hopefully after updating, CI will pass)

**Comment by franzhusch** [comment]
The CLA fails because I have changed my E-Mail of my Github Account (and removed the old one), I will just reopen the PR, when we have made it merge-ready. If you think it is better to make the new PR now, then just tell me and I will do so.

**Comment by mo271** [comment]
Consider instead push to this pull request while amending the commits, correcting the email used

**Comment by franzhusch** [comment]
Force pushed git history to be one commit, so that the CLA issues disappear.

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean (hunk 4 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: @Paul-Lez Is there really a solution to making this a "theorem"? The problem specifically asks for explicit computable decision procedure, so allowing noncomputable will always enable Classical to provide a nonconstructive solution to the problem or am I mistaken here?

Comment (franzhusch) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: Can the Nonconstructive version with the countable be easily solved with Classical? I suppose not because the cardinality could also be Uncountable, but I am not a 100% sure.

Comment (franzhusch) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: Also see https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/decision.20problems.20and.20.60ComputablePred.60/with/580281801

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 5]
```diff
@@ -0,0 +1,95 @@
...
+> *"Given two Coxeter matrices $M$ and $M'$, decide whether the groups $W(M)$ and $W(M')$
+> are isomorphic."*
+
+This formulation is *constructive*: `Decidable` requires an actual decision procedure. -/
+@[category research open, AMS 20]
+def coxeterGroup_isomorphism_decidable (n m : ℕ) 
+    (M₁ : CoxeterMatrix (Fin n))
+    (M₂ : CoxeterMatrix (Fin m)) :
+    Decidable (Nonempty (M₁.Group ≃* M₂.Group)) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean:51]: Could this work with the `Computable` predicate?

Comment (franzhusch) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean:51]: If we let it stay def with Computable it would be fine, but then it would not make much of a difference and just be a different predicate. If we change it to theorem, then it would again enable a nonconstructive proof.

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean [hunk 6]
```diff
@@ -0,0 +1,95 @@
...
+This is Problem 2 from Mühlherr's paper:
+> *"Given two Coxeter matrices $M$ and $M'$, find all isomorphisms from $W(M)$ onto $W(M')$."*
+
+This formulation is *non-constructive*: `Countable` only asserts existence of an enumeration.
+For a constructive version, see `coxeterGroup_isomorphisms_encodable`. -/
+@[category research open, AMS 20]
+theorem coxeterGroup_find_all_isomorphisms (n m : ℕ)
+    (M₁ : CoxeterMatrix (Fin n))
+    (M₂ : CoxeterMatrix (Fin m)) :
+    Countable (M₁.Group ≃* M₂.Group) := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean]: Is the fact that there are countably many isomorphisms open?

File: FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean (hunk 5 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/CoxeterGroupIsomorphismProblem.lean:51]: I'm not sure I follow. This is a valid way to fill in the current sorry:
```suggestion
@[category research open, AMS 20]
def coxeterGroup_isomorphism_decidable (n m : ℕ) 
    (M₁ : CoxeterMatrix (Fin n))
    (M₂ : CoxeterMatrix (Fin m)) :
    Decidable (Nonempty (M₁.Group ≃* M₂.Group)) :=
  Classical.dec _
```
Are you saying that 
```suggestion
@[category research open, AMS 20]
lemma computable_coxeterGroup_isomorphism (n m : ℕ) :
    Computable fun (M₁,  M₂) : CoxeterMatrix (Fin m) × CoxeterMatrix (Fin n) =>
      Nonempty (M₁.Group ≃* M₂.Group) := by
  sorry
```
can similarly be trivially proved non-constructively?
